US06297329B1
Preparation of 4-methylol-1-methyl-2,6,7-trioxabicyclo[2.2.2]octane (BOE 1)
Into a flask equipped with a stirrer, a distilling column, a nitrogen inlet, a heating jacket, and a thermometer were charged 486 g of triethyl orthoacetate, 408 g of pentaerythritol, 300 g of diethylene glycol dimethyl ether, and 0.9 g of PTSA. The mixture was gradually heated to 170° C. over a period of 5 hours. During this time 490 g of distillate were obtained. The distillate contained mostly ethanol and small amounts of diethylene glycol dimethyl ether. The temperature was lowered to 100° C., and the remaining diethylene glycol dimethyl ether was distilled off under reduced pressure (30 mbar). The residue was subjected to vacuum distillation. The fraction having a boiling temperature of 126-130° C. at a pressure of 4 mbar yielded 426 g of oil. This oil solidified to a clear solid having a melting point of 99° C. and had the following structure

reactant | triethyl orthoacetate | 486 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | pentaerythritol | 408 g | OCC(CO)(CO)CO | C5H12O4
reactant | ethanol | C(C)O | C2H6O
catalyst | PTSA | 0.9 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | diethylene glycol dimethyl ether | COCCOCCOC | C6H14O3
solvent | diethylene glycol dimethyl ether | 300 g | COCCOCCOC | C6H14O3
product | 4-methylol-1-methyl-2,6,7-trioxabicyclo[2.2.2]octane | 426 g | C(O)C12COC(OC1)(OC2)C | C7H12O4
